US04639468
Synthesis of N-n-hexyl-2-(n-hexylamino)acetamide
Into an autoclave, 5.6 gr (0.03 mol) of ethyl ester of 2-(n-hexylamino)acetic acid, 15 ml (0.1125 mol) of n-hexylamine and 1 mml of ethanol were added. The mixture was heated to 120° for 40 hours. The solvent and excess amine were then evaporated. The residue was solidified in pentene at low temperature (-80° C.), recrystallized three times from hexane, then dissolved in ether and added with a saturated HCl solution in ether till acid pH. The hydrochloride was recrystallized from isopropanol.

reactant | 2-(n-hexylamino)acetic acid | C(CCCCC)NCC(=O)O | C8H17NO2
reactant | n-hexylamine | 0.1125 mol, 15 ml | C(CCCCC)N | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | N-n-hexyl-2-(n-hexylamino)acetamide | C(CCCCC)NC(CNCCCCCC)=O | C14H30N2O
